US06140342
cis-4-[(3,5-Bis-trifluoromethyl-benzyl)-methoxycarbonyl-amino]-6-ethoxy-7-methoxy-2-methyl-3,4-dihydro-2H-quinoline-1-carboxylic acid ethyl ester
A solution of cis-4-[(3,5-bis-trifluoromethyl-benzyl)-methoxycarbonyl-amino]-6-hydroxy-7-methoxy-2-methyl-3,4-dihydro-2H-quinoline-1-carboxylic acid ethyl ester (30 mg, 0.053 mmol), triphenylphosphine (28 mg, 0.11 mmol), ethanol (16 μL, 0.79 mmol), and bis-(N-methylpiperazinyl)-azodicarboxamide (30 mg, 0.11 mmol) in benzene (1 mL) was stirred at room temperature for 12 hours. Purification of the solution directly by silica gel chromatography using 0-20% ethyl acetate/hexanes as eluent afforded 20 mg of the title compound (67%): MS m/z 593 (M+), 610 (M+ +17); 1H NMR (CDCl3) δ 6.39 (C5, s, 1H), 1.17 (C2-Me, d, 3H, J=6.2 Hz).

reactant | cis-4-[(3,5-bis-trifluoromethyl-benzyl)-methoxycarbonyl-amino]-6-hydroxy-7-methoxy-2-methyl-3,4-dihydro-2H-quinoline-1-carboxylic acid ethyl ester | 0.053 mmol, 30 mg | C(C)OC(=O)N1[C@H](C[C@H](C2=CC(=C(C=C12)OC)O)N(C(=O)OC)CC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)C | C25H26F6N2O6
reactant | triphenylphosphine | 0.11 mmol, 28 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | ethanol | 0.79 mmol, 16 μL | C(C)O | C2H6O
reactant | bis-(N-methylpiperazinyl)-azodicarboxamide | 0.11 mmol, 30 mg | CN1C(CNCC1)NC(=O)N=NC(=O)NC1N(CCNC1)C | C12H24N8O2
solvent | benzene | 1 mL | C1=CC=CC=C1 | C6H6
product | cis-4-[(3,5-Bis-trifluoromethyl-benzyl)-methoxycarbonyl-amino]-6-ethoxy-7-methoxy-2-methyl-3,4-dihydro-2H-quinoline-1-carboxylic acid ethyl ester | 20 mg, 67% | C(C)OC(=O)N1[C@H](C[C@H](C2=CC(=C(C=C12)OC)OCC)N(C(=O)OC)CC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)C | C27H30F6N2O6
